US08957069B2
1-[2,2,7-trimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-4-(4-methylphenyl)piperazine
To a solution of toluene (10 mL) containing 5-bromo-2,2,7-trimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran (300 mg, 0.910 mmol) synthesized in Reference Example 157, 1-(4-methylphenyl)piperazine (160 mg, 0.910 mmol), Tris(dibenzylideneacetone)dipalladium (0) (24.9 mg, 0.027 mmol) and Xantphos (47.2 mg, 0.082 mmol), sodium tert-butoxide (131 mg, 1.36 mmol) was added, and the mixture was stirred under heated reflux for 15 hours. After cooled to room temperature, the reaction solution was subjected to Celite filtration. Water was added to the filtration, and extraction was performed using ethyl acetate. The extract was dried using anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. After that, the residue was purified by silica gel chromatography (hexane-ethyl acetate 10:1), and it was crystallized from acetonitrile to obtain 12.0 mg of the title compound as a white solid (yield 3%).

reactant | 5-bromo-2,2,7-trimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran | 0.910 mmol, 300 mg | BrC=1C(=C(C2=C(CC(O2)(C)C)C1)C)C1=CC=C(C=C1)C | C18H19BrO
reactant | 1-(4-methylphenyl)piperazine | 0.910 mmol, 160 mg | CC1=CC=C(C=C1)N1CCNCC1 | C11H16N2
reactant | Xantphos | 0.082 mmol, 47.2 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 1.36 mmol, 131 mg | CC(C)([O-])C.[Na+]
catalyst | Tris(dibenzylideneacetone)dipalladium | 0.027 mmol, 24.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[2,2,7-trimethyl-6-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-4-(4-methylphenyl)piperazine | 12.0 mg, yield 3% | CC1(OC2=C(C1)C=C(C(=C2C)C2=CC=C(C=C2)C)N2CCN(CC2)C2=CC=C(C=C2)C)C | C29H34N2O
